US07842696B2
DIPEA (165 mg, 0.2 mL, 1.2 mmol) was added drop wise to N-methyl-terephthalamic acid (80 mg, 0.4 mmol) in DMF (5 mL). EDCI (100 mg, 0.5 mmol) and HOBT (67 mg, 0.5 mmol) were added consecutively and, after 10 minutes, 2-Amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone in its HCl salt form (150 mg, 0.4 mmol) was added. The resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using basic alumina and 10% MeOH in CHCl3 as eluent) to afford 30 mg (15.74% yield) of N-methyl-N′-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamide. LCMS Purity: 97.3%. 1H NMR (CDCl3): δ 8.7 (d, 2H), 8.2 (d, 2H), 7.8 (m, 1H), 7.7 (m, 3H), 7.2 (m, 2H), 4.4 (m, 2H), 4.1 (s, 1H), 3.8 (s, 3H), 3.4 (m, 4H).

reactant | DIPEA | 1.2 mmol, 0.2 mL, 165 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methyl-terephthalamic acid | 0.4 mmol, 80 mg | CNC(C1=CC=C(C(=O)O)C=C1)=O | C9H9NO3
reactant | EDCI | 0.5 mmol, 100 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.5 mmol, 67 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-methyl-N′-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamide | 30 mg, 15.74% yield | CNC(C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1)=O | C23H23F3N4O4
